US06043248
Preparation of 4-amino-6-chloro-2-[2-(4-chloro)-5 pyridylmethylthio]-pyrimidine (Cpd #111)
4-Amino-6-chloro-2-thio-pyrimidine (Cpd #110; 614 mg, 2.38 mmol) in ethanol (1.5 ml) is treated with 3.25 M NaOH (1.47 ml, 4.8 mmol) and the mixture is warmed to 50° C. 4-chloro-2-chloromethyl pyridine is added and the solution is stirred warm for 1 hour. The reaction mixture is cooled and concentrated in vacuo, and the resultant solid is filtered and washed with water followed by cold ethanol, mp 195° C.

reactant | 4-Amino-6-chloro-2-thio-pyrimidine | 2.38 mmol, 614 mg | C1=C(NC(=S)N=C1N)Cl | C4H4ClN3S
reactant | NaOH | 4.8 mmol, 3.25 M, 1.47 ml | [OH-].[Na+]
reactant | 4-chloro-2-chloromethyl pyridine | ClC1=CC(=NC=C1)CCl | C6H5Cl2N
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 4-amino-6-chloro-2-[2-(4-chloro)-5 pyridylmethylthio]-pyrimidine | C1=CN=C(C=C1Cl)CSC2=NC(=CC(=N2)Cl)N | C10H8Cl2N4S
